US05442064
1-[4-(N-Benzyloxycarbonylamidino)-phenyl]-4-[4-[pivaloyloxymethyloxycarbonylmethyl]-piperidino-carbonyl]-piperidine
A suspension of 1 equivalent of 1-[4-(N-benzyloxycarbonylamidino)-phenyl]-4-[4-(carboxymethyl)-piperidinocarbonyl]-piperidine is stirred for 2 days with 2 equivalents each of chloromethyl pivalate, potassium iodide, potassium bicarbonate and potassium carbonate in dimethylformamide at ambient temperature for 2 days. After pouring into water, extraction with ethyl acetate and evaporation down of the ethyl acetate extract, the desired product is obtained which is then chromotagraphed over silica gel. The following compounds are obtained analogously to Example 10:

reactant | 1-[4-(N-benzyloxycarbonylamidino)-phenyl]-4-[4-(carboxymethyl)-piperidinocarbonyl]-piperidine | 1 equivalent | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)N1CCC(CC1)C(=O)N1CCC(CC1)CC(=O)O | C28H34N4O5
reactant | chloromethyl pivalate | 2 equivalents | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | potassium iodide | [I-].[K+]
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-[4-(N-Benzyloxycarbonylamidino)-phenyl]-4-[4-[pivaloyloxymethyloxycarbonylmethyl]-piperidino-carbonyl]-piperidine | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)N1CCC(CC1)C(=O)C1NCCC(C1)CC(=O)OCOC(C(C)(C)C)=O | C34H44N4O7
